US06821967B2
a. tert.butyl 4-(3-methyl-3H-imidazo[4,5]pyridin-2-yl)-piperazin-1-carboxylate
A solution of 3.83 g (0.011 mol)-2-chloro-3-methyl-3H-imidazo[4,5]pyridine, 2.2 g (0.012 mol) of 1-Boc-piperazine and 5 ml (0.029 mol) of ethyl-diisopropylamine in 15 ml of DMSO is stirred for 12 hours at 130° C. Water is added and the mixture is extracted with ethyl acetate. The combined organic phases are dried over sodium sulphate. The product is purified by column chromatography on silica gel (eluant: dichloromethane/acetone=20:1).

reactant | 2-chloro-3-methyl-3H-imidazo[4,5]pyridine | ClC=1N(C2=C(C=CC=N2)N1)C | C7H6ClN3
reactant | 1-Boc-piperazine | 0.012 mol, 2.2 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | ethyl-diisopropylamine | 0.029 mol, 5 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | DMSO | 15 ml | CS(=O)C | C2H6OS
product | tert.butyl 4-(3-methyl-3H-imidazo[4,5]pyridin-2-yl)-piperazin-1-carboxylate | CN1C(=NC=2C=CC=NC21)N2CCN(CC2)C(=O)OC(C)(C)C | C16H23N5O2
